US08648087B2
Step D: Preparation of N4-(4-(imidazo[1,2-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4-methylthiazol-2-yl)quinazoline-4,6-diamine:
A solution of N-(4-(imidazo[1,2-a]pyridin-7-yloxy)-3-methylphenyl)-6-iodoquinazolin-4-amine hydrochloride (0.20 g, 0.378 mmol) and 4-methylthiazol-2-amine (0.086 g, 0.755 mmol) and sodium 2-methylpropan-2-olate (0.145 g, 1.51 mmol), Xanthphos (0.016 g, 0.028 mmol), Pd2 dba3 (0.017 g, 0.018 mmol) in toluene (3.6 mL) was degassed and sealed. After heating to 100° C. for 16 hours, the mixture was diluted with water and ethyl acetate. The resulting solid was filtered to provide the product as brown solid. MS APCI (+) m/z 480 (M+1) detected; 1H NMR (400 MHz, DMSO-d6) δ 9.96 (s, 1H), 8.86 (s, 1H), 8.63 (s, 1H), 8.55 (d, 1H), 7.79 (m, 5H), 7.44 (s, 1H), 7.14 (d, 1H), 6.80 (dd, 1H), 6.55 (d, 1H), 2.50 (s, 3H), 2.21 (s, 3H).

reactant | N-(4-(imidazo[1,2-a]pyridin-7-yloxy)-3-methylphenyl)-6-iodoquinazolin-4-amine hydrochloride | 0.378 mmol, 0.20 g | Cl.N=1C=CN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)I)C
reactant | 4-methylthiazol-2-amine | 0.755 mmol, 0.086 g | CC=1N=C(SC1)N | C4H6N2S
reactant | sodium 2-methylpropan-2-olate | 1.51 mmol, 0.145 g | CC(C)(C)[O-].[Na+]
reactant | Xanthphos | 0.028 mmol, 0.016 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 3.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2 dba3 | 0.018 mmol, 0.017 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N4-(4-(imidazo[1,2-a]pyridin-7-yloxy)-3-methylphenyl)-N6-(4-methylthiazol-2-yl)quinazoline-4,6-diamine | N=1C=CN2C1C=C(C=C2)OC2=C(C=C(C=C2)NC2=NC=NC1=CC=C(C=C21)NC=2SC=C(N2)C)C | C26H21N7OS
